US07906541B2
350 mg of 3,9-dimethyl[1,3]thiazolo[3,2-a]benzimidazol-9-ium iodide (1.06 mmol) were solubilized in methanol (60 mL), then 230 mg of NaOMe (4 eq) were added and the solution stirred at room temperature. After 48 h the solvent was evaporated, water was added (25 mL) and the mixture extracted with CH2Cl2 (3×25 mL). The organic layer was dried with MgSO4 and evaporated under reduced pressure. The residue was then purified by flash chromatography on silica gel (eluent: CH2Cl2) to afford 1-methyl-3-[(1Z)-1-(methylsulfanyl)prop-1-en-2-yl]-1,3-dihydro-2H-benzimidazol-2-one as a white powder (200 mg, 80% yield). Under other experimental conditions: 100 mg of iodide (III-R3=R1=Me) (0.30 mmol) were solubilised in methanol (20 mL), then 65 mg of NaOMe (4 eq) were added and the solution refluxed for 2 h. Then, the solvent was evaporated, water was added (15 mL) and the mixture extracted with CH2Cl2 (3×15 mL). 1-methyl-3-[(1Z)-1-(methylsulfanyl)prop-1-en-2-yl]-1,3-dihydro-2H-benzimidazol-2-one was recovered (87%, 62 mg) as the sole (Z) isomer.

reactant | 3,9-dimethyl[1,3]thiazolo[3,2-a]benzimidazol-9-ium iodide | 1.06 mmol, 350 mg | [I-].CC1=CSC2=[N+](C3=C(N21)C=CC=C3)C
reactant | NaOMe | 230 mg, 4 eq | C[O-].[Na+]
solvent | methanol | 60 mL | CO | CH4O
product | 1-methyl-3-[(1Z)-1-(methylsulfanyl)prop-1-en-2-yl]-1,3-dihydro-2H-benzimidazol-2-one | 200 mg, 80% yield | CN1C(N(C2=C1C=CC=C2)\C(=C/SC)\C)=O | C12H14N2OS
